US04219649
12.8 g. of 2-amino-5-chloropyridine are reacted with 15.8 g. of ethyl-2-ethylacetacetate in a mixture of 46 g. of phosphorus oxychloride and 7 g. of polyphosphoric acid at 120° to 130° C. for 3 hours. The initially violent hydrogen chloride gas evolution gradually ceases. The reaction mixture is treated with 100 ml. of water at 70° to 80° C. Upon cooling the pH-value of the mixture is adjusted to neutral with sodium carbonate. The aqueous reaction mixture is shaken with four 100-ml. portion of chloroform. The combined chloroform solutions, dried on sodium sulphate, are evaporated and ethyl acetate is distilled through the residue. 20.2 g. (91%) of 2-methyl-3-ethyl-7-chloro-4-oxo-4H-pyrido[1,2-a]pyrimidine are obtained, melting at 114° to 116° C. after recrystallization from a mixture of ethanol and ether.

reactant | 2-amino-5-chloropyridine | NC1=NC=C(C=C1)Cl | C5H5ClN2
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | hydrogen chloride | Cl | ClH
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 2-methyl-3-ethyl-7-chloro-4-oxo-4H-pyrido[1,2-a]pyrimidine | 91% | CC=1N=C2N(C(C1CC)=O)C=C(C=C2)Cl | C11H11ClN2O
